US06413938B1
2,4,5,6-Tetrachloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole
A mixture of 2,4,5,6-tetrachloro-1H-benzimidazole (1.02 g, 4.0 mmol), acetonitrile (20 mL), and N,O-bis(trimethylsilyl)acetamide (1.5 mL, 6 mmol) was stirred at 70° C. for 15 min. Then 1,2,3-tri-O-acetyl-5-deoxy-D-ribofuranose (1.35 g, 5.2 mmol) in acetonitrile (5 mL) was added, followed by trimethylsilyltrifluoromethane sulfonate (1.16 mL, 6.0 mmol). The resulting mixture was allowed to stir at 70° C. for 20 min. Another portion of 1,2,3-tri-O-acetyl-5-deoxy-D-ribofuranose (0.21 g, 0.8 mmol) in acetonitrile (2 mL) was added and stirring was continued at 70° C. for 10 min. The mixture was allowed to cool to RT and was diluted with ethyl acetate. The ethyl acetate layer was washed with a saturated NaHCO3/NaCl solution, dried over Na2SO4 and the solvents were removed by rotary evaporation. The product was purified by flash chromatography using chloroform as eluant. Recrystallization from methanol afforded 1.11 g (61 %) of the title compound as white crystals; m.p. 126-127° C.; 1H NMR (DMSO-d6) δ: 8.16 (s, 1H), 6.20 (d, 1H), 5.61 (t, 1H), 5.25 (dd, 1H), 4.24 (m, 1H), 2.13 (s, 3H), 2.02 (s, 3H), 1.50 (d, 3H).

reactant | 2,4,5,6-tetrachloro-1H-benzimidazole | 4.0 mmol, 1.02 g | ClC1=NC2=C(N1)C=C(C(=C2Cl)Cl)Cl | C7H2Cl4N2
reactant | N,O-bis(trimethylsilyl)acetamide | 6 mmol, 1.5 mL | C/C(=N\[Si](C)(C)C)/O[Si](C)(C)C | C8H21NOSi2
reactant | 1,2,3-tri-O-acetyl-5-deoxy-D-ribofuranose | 5.2 mmol, 1.35 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C | C11H16O7
reactant | trimethylsilyltrifluoromethane sulfonate | 6.0 mmol, 1.16 mL | C[Si](C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | 1,2,3-tri-O-acetyl-5-deoxy-D-ribofuranose | 0.8 mmol, 0.21 g | C(C)(=O)OC1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C | C11H16O7
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 2,4,5,6-Tetrachloro-1-(2,3-di-O-acetyl-5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 1.11 g, 61 % | ClC1=NC2=C(N1[C@H]1[C@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C)C=C(C(=C2Cl)Cl)Cl | C16H14Cl4N2O5
